Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I can't think"
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr. ___ is a ___ year-old Caucasian man who is a patient at 
the PREP program at ___ whose psychiatric history is 
significant for chronic psychotic illness (schizophrenia vs 
schizoaffective disorder), cannabis use disorder (moderate to 
severe) two prior psychiatric hospitalizations who 
self-presented with his mother at the recommendation of his ___ 
providers due to difficulty thinking that has been worsening for 
the past month and concern for worsening psychotic symptoms. 
Psychiatry is consulted to aid with management and disposition 
planning.
.
About a month ago, Mr. ___ mother reports that he was very 
sedated "like a stone" which the family attributed to his dose 
of aripiprazole. His aripiprazole was then discontinued and he 
was started on lurasidone, which was titrated up to 120 mg daily 
(now at 90mg). His mother also discontinued his haloperidol out 
of concern that he was taking too much medication. At this 
point, the patient began to have "hyperactive" thoughts that 
have made it difficult for him to think and concentrate. He 
states that it feels like a "current of water" is running 
through his brain and that he "can't take it anymore." He has 
difficulty describing the content of his thoughts. He does 
endorse difficulty concentrating, and denies experiencing any 
auditory or visual hallucinations for the past few months. He 
has been sleeping well and has a good appetite. He also denies 
having any suicidal or homicidal ideation, intent, or plan. 
.
The patient and his mother are both amenable to inpatient 
psychiatric admission at this point. Mr. ___ mother 
states, "I think it's not safe for him with his mind like this". 

.
Psych ROS: 
-Depression: Reports mood as "hyperactive" but denies low mood, 
tearfulness, anhedonia, changes in sleep or appetite, and also 
denies any suicidal ideation/intent/plan 
-Psychosis: +Paranoia, denies AH/VH, unclear if patient 
experiencing TI/TB/or IOR 
-Mania: No decreased need for sleep, grandiosity, or increased 
goal directed behavior 
-Anxiety:Denies, though later states cannabis helps with anxiety 
symptoms 
  

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
-Diagnoses: Chronic psychotic illness (schizophrenia vs 
schizoaffective disorder)
-Hospitalizations: ___ and ___ at ___ for AH
-Current treaters and treatment: Dr. ___. Dr. ___, Dr. 
___, Dr. ___ at ___ 
PREP program
-Medication and ECT trials: Olanzapine (high lipids and LFTs), 
Risperidone (high prolactin), aripiprazole (sedation, 
?akathisia). Currently on lurasidone, lorazepam, benztropine, 
and haloperidol.
-Self-injury: denies
-Harm to others: denies
-Trauma: Unknown

PAST MEDICAL HISTORY: 
Thyroiditis (per patient's mother reports that his most recent 
TFTs in ___ were wnl)

 
Social History:
-Housing: Lives with mother and sister. Father is in the picture 
with unclear relationship.
-Education: Graduated from ___ and attended 
college for a short duration before withdrawing due to worsening 
psychotic symptoms. Hopes to get a job in the future
-Financially supported by his mother
-States that he enjoys cooking and has been playing the piano 
since age ___. 
-Per notes from ___ has a love for animals and has a python at 
home

SUBSTANCE ABUSE HISTORY:
-EtOH: occasionally drinks alcohol with friends (unclear amount, 
patient cannot quantify but sounds infrequent)
-Tob: recently started using an e-cigarette
-Illicts: Smokes cannabis with friends which helps to calm him 
down (unclear frequency). Denies using K2 or other synthetics.

FORENSIC HISTORY:
Arrests: deferred
Convictions and jail terms: deferred
Current status (pending charges, probation, parole): deferred

 
Family History:
FAMILY PSYCHIATRIC HISTORY:
Patient's mother has ___. Maternal grandfather had ___. Uncle 
with schizophrenia. Aunt died by suicide, with a likely history 
of ___ and psychosis.

 
Physical Exam:
* General: Well-nourished, well-developed, in no apparent 
distress. Appears stated age. Good hygiene, appropriately 
dressed in T-shirt and jeans.
* HEENT: Normocephalic. PERRL, EOMI. Oropharynx clear.
* Neck: Supple, trachea midline. No adenopathy or thyromegaly.
* Back: No significant deformity, no focal tenderness.
* Lungs: Clear to auscultation; no crackles or wheezes.
* CV: Regular rate and rhythm; no murmurs/rubs/gallops; 2+ pedal 
pulses.
* Abdomen: Soft, nontender, nondistended; no masses or 
organomegaly.
* Extremities: No clubbing, cyanosis, or edema.
* Skin: Warm and dry, no rashes, scars, or lesions.

Neurological:
  *Cranial Nerves-
       I: Not tested.
       II: Pupils equally round and reactive to light 
bilaterally. Visual fields are full to confrontation.
      III, IV, VI: Extraocular movements intact bilaterally 
without nystagmus.
      V, VII: Facial strength and sensation intact and 
symmetric.
      VIII: Hearing intact to voice.
      IX, X: Palatal elevation symmetrical.
      XI: Sternocleidomastoid and trapezius normal bilaterally.
      XII: Tongue midline without fasciculations.
  *Motor- Normal bulk and tone bilaterally. No abnormal 
movements, no tremors. Strength full power ___ throughout. No 
gross focal motor or sensory deficits, normal gait.
  *Coordination- Normal on finger-nose-finger, rapid alternating 
movements, heel to shin.
  *Deep tendon reflexes- 2+ and symmetrical, toes downgoing.
  *Sensation- intact to light touch, position sense intact.
  *Gait- steady, no truncal ataxia, normal stance and posture.
  *Romberg- negative.

NEUROPSYCHIATRIC EXAMINATION:
* Appearance: young, Caucasian male appearing stated age, no 
apparent distress, appears stated age,limited hygiene, 
appropriately dressed in t-shirt and jeans
* Behavior: regressed and childlike, smirks spontaneously, opens 
and closes drawers in exam room throughout interview, jiggles 
legs, friendly, pleasant, appropriate eye contact, orients to 
interviewer
* Orientation: oriented to ___ as well as person, 
place, and situation
* Mood: "good" // mildly euphoric
* Affect: euthymic, full range, normal intensity, appropriate to 
situation, congruent with mood
* Thought Process: linear, concrete, goal-oriented, no loose 
associations
* Thought Content: denies SI/HI/AH/VH, believes he has a current 
running through his head
* Impulse Control: good/fair/questionable/poor/impaired
* Judgment: poor
* Insight: poor
* Speech: fluent, normal rate, tone, volume, and prosody, no 
paraphasic errors

COGNITION:
Per Dr. ___ ___
Wakefulness/alertness: awake and alert
  *Attention (digit span, MOYB): MOYB without error
  *Orientation: ___ ___
  *Memory:   ___ immediate and ___ spontaneous after 5 min
  *Fund of knowledge: current and first POTUS
  Calculations:  $2.25 as 9 quarters
  Abstraction:  apple/orange as "both fruit"
  Proverb: His meaning of "don't cry over spilt milk" is "don't 
cry over spilt milk"
  *Speech: normal rate, normal tone, normal prosody
  *Language: simple but fluent, without paraphrasic error

 
Pertinent Results:
Labs ___:
CBC: WBC 12.1
BMP WNL
Utox: Neg
Ser Tox: Neg
UA: WNL

 
Brief Hospital Course:
GLOBAL ASSESSMENT:

SAFETY:  The pt. was placed on 15 minute checks on admission and 
remained here on that level of observation throughout. He was 
unit-restricted.  There were no acute safety issues during this 
hospitalization.

LEGAL: ___
PSYCHIATRIC:
During this hospitalization, we initially continued his latuda 
and switched his Haldol for thorazine, which improved his manic, 
intrusive behavior substantially and dramatically increased his 
subjective feelings of hyperactivity and restlessness.  (prior 
to this switch, he was observed to be very impulsive, and 
childlike in the milieu, would shout, crawl on the floor, 
demonstrate poor boundaries, was intrusive with peers and staff 
as well.  l
He reported his thinking improved substantially as well, and 
parents and outpt team agreed that he appeared to be back to his 
baseline and were comfortable with plan for d/c back to outpt tx 
at PREP once his 3-day expired.  

GENERAL MEDICAL CONDITIONS:

PSYCHOSOCIAL:
#) GROUPS/MILIEU: Pt was encouraged to participate in unit’s 
groups/milieu/therapy opportunities. Use of coping skills and 
mindfulness/relaxation methods were encouraged. Therapy 
addressed family/social/work issues. Patient and family were 
involved in family meeting focused on psychoeducation and 
discharge planning.

#) COLLATERAL CONTACTS: Spoke with his PREP outpt team and his 
parents throughout his hospital stay.

#) FAMILY INVOLVEMENT: as above.

#) INTERVENTIONS:
DMH Referral:  The team submitted a ___ application for the 
patient to receive services, specifically requesting PREP 
program participation and community-based support. 

Medications
Psychotherapeutic interventions: individual, group, and milieu 
therapy
Coordination of aftercare
Behavioral interventions 

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient. We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team, and I 
answered the patient's questions. The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT:

#) Chronic/Static Risk Factors: 
chronic psychotic illness

#) Modifiable Risk Factors:
chronic, heavy substance abuse
medication noncompliance
social isolation
lack of daily structure 

#) Protective Factors:
supportive family
stable living envy
wraparound outpt tx via PREP.

PROGNOSIS: Fair.  With ongoing outpt tx, support from family and 
continued commitment to abstinence from marijuana. medication 
compliance, and creating daily structure, pt's prognosis is 
fair.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. lurasidone 90 mg oral qhs 
2. Lorazepam 0.5 mg PO Q6H:PRN anxiety, agitation 
3. Benztropine Mesylate 1 mg PO DAILY 
4. haloperidol 5 mg oral daily 

 
Discharge Medications:
1. Benztropine Mesylate 1 mg PO DAILY 
RX *benztropine 1 mg 1 tablet(s) by mouth daily Disp #*7 Tablet 
Refills:*0
2. Lorazepam 0.5 mg PO Q6H:PRN anxiety, agitation 
RX *lorazepam 0.5 mg 1 tab by mouth Q8H PRN Disp #*21 Tablet 
Refills:*0
3. lurasidone 80 mg oral DINNER 
RX *lurasidone [Latuda] 80 mg 1 tablet(s) by mouth QPM with 
dinner Disp #*7 Tablet Refills:*0
4. ChlorproMAZINE 50 mg PO TID psychosis, agitation 
RX *chlorpromazine 50 mg 1 tablet(s) by mouth three times a day 
Disp #*21 Tablet Refills:*0
5. ChlorproMAZINE 25 mg PO BID:PRN anxiety, agitation 
RX *chlorpromazine 25 mg 1 tablet(s) by mouth daily PRN Disp #*7 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
schizophrenia vs. schizoaffective disorder (bipolar type)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

Appearance: Groomed, well nourished Caucasian man who appears 
stated age.
Behavior: cooperative, good eye contact, no PMA/PMR
Speech: nl rate/vol/prosody
Mood and Affect: “good“/euthymic, congruent with mood.
Thought Process: linear, logical
Thought Content: denies any AH/VH, no evidence of paranoia
Judgment and Insight: poor/impaired
Alert and Oriented to person, place, time, situation.
Memory: intact

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

We strongly recommend engaging in AA/NA/SMART recovery meetings 
for ongoing help with sobriety.
Here is a website with links to meetings near your area: 
___

*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___